US07473745B2
Preparation of an Non-Bridge Indenoundolyl Catalyst: Indeno[1,2-B]Indolyl Cyclopentadienyl Zirconium Dichloride
A sample of the indeno[1,2-b]indolyl lithium salt produced above (10 g, 42 mmol) is dissolved in toluene (95 mL) to produce an orange slurry. Diethyl ether (35 mL) is added slowly to give an orange solution. This solution is added over 15 min. at room temperature with stirring to a slurry of cyclopentadienylzirconium trichloride (11 g, 42 mmol) in toluene (190 mL) and diethyl ether (190 mL). The mixture turns deep red and is kept at room temperature overnight. The slurry is filtered to recover a red solid, which is washed with toluene (200 mL) and dried under vacuum to give the catalyst (16.5 g, 78%).

reactant | indeno[1,2-b]indolyl lithium | C1(=C2C=C3C(=NC=4C=CC=CC34)C2=CC=C1)[Li]
reactant | cyclopentadienylzirconium trichloride | 42 mmol, 11 g | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Zr+3]
solvent | toluene | 95 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 190 mL | C(C)OCC | C4H10O
solvent | Diethyl ether | 35 mL | C(C)OCC | C4H10O
product | Indeno[1,2-B]Indolyl Cyclopentadienyl Zirconium Dichloride | [Cl-].[Cl-].C1(=C2C=C3C(=NC=4C=CC=CC34)C2=CC=C1)[Zr+2]C1C=CC=C1 | InChI=1S/C15H8N.C5H5.2ClH.Zr/c1-2-6-11-10(5-1)9-13-12-7-3-4-8-14(12)16-15(11)13;1-2-4-5-3-1;;;/h1-4,6-9H;1-5H;2*1H;/q;;;;+2/p-2
